* C:\Users\lo\Documents\GitHub\ELECTENG_310_Team14\LTSpice\CircuitImplementation.asc
XU2 2.5V N003 5V 0 N004 LM324
XU1 N006 2.5V 5V 0 SqWv LM324
R1 N003 SqWv 122k
R2 N006 N004 4k
C1 N004 N003 341p
R3 SqWv N006 10k
V1 5V 0 5
XU3 N005 N001 5V 0 N002 LM324
R4 2.5V N005 1
R5 2.5V N001 1
R6 N002 N001 1
C2 N005 0 31p
V2 2.5V 0 2.5
XU4 5V 0 N008 TDTC114Y
XU5 N007 N008 0 TDTC114Y
R7 5V 0 1
R8 0 0 2
D1 5V N007 D
.model D D
.lib C:\Users\lo\AppData\Local\LTspice\lib\cmp\standard.dio
.lib LM324.lib
* Square Waveform Generator
* Transmitter
* Receiver
* LED Driver
.tran 0 10m 0 1u
.lib Contrib/Toshiba/BJT/TDTC114Y_enc.lib
.backanno
.end
